US07253286B2
7-Methoxy-4-chloroquinoline-6-carboxamide
7-Methoxy-4-chloroquinoline-6-carbonyl chloride (2.7 g) was dissolved in tetrahydrofuran (150 ml), and the solution was cooled to 0° C. After adding 30% ammonia water (5 ml), the mixture was stirred at room temperature for 30 minutes. Water was added, extraction was performed 3 times with ethyl acetate, and then the organic layers were combined, washed with water and saturated brine, dried over sodium sulfate and dried under reduced pressure to obtain the title compound (1.35 g).

reactant | 7-Methoxy-4-chloroquinoline-6-carbonyl chloride | 2.7 g | COC1=C(C=C2C(=CC=NC2=C1)Cl)C(=O)Cl | C11H7Cl2NO2
reactant | ammonia water | 5 ml | O.N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 7-Methoxy-4-chloroquinoline-6-carboxamide | 1.35 g | COC1=C(C=C2C(=CC=NC2=C1)Cl)C(=O)N | C11H9ClN2O2
